US06884801B1
2-Amino-N-pentylbenzamide (prepared from amylamine and isatoic anhydride, using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give 2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-N-pentylbenzamide.

reactant | 2-Amino-N-pentylbenzamide | NC1=C(C(=O)NCCCCC)C=CC=C1 | C12H18N2O
reactant | amylamine | C(CCCC)N | C5H13N
reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
product | 2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-N-pentylbenzamide | N1C(=NCC1)CNC1=C(C(=O)NCCCCC)C=CC=C1 | C16H24N4O
